US08536351B2
Diethylmalonate (8.86 ml, 58 mmol) is added dropwise over 3 minutes to a chilled (ice-bath) solution of sodium (1.48 g, 64 mmol) in ethanol (80 ml). Once the addition is complete the cooling bath is removed and reaction is stirred for 25 minutes at room temperature, then the reaction mixture is cooled again in an ice-bath. A solution of 4-(tetrahydropyran-4-yl)-3-buten-2-one (7.50 g, 49 mmol) in ethanol (45 ml) is added to the reaction mixture via a dropping funnel over 15 minutes. Once the addition is complete, the cooling bath is removed and the yellow solution is stirred at room temperature for 19 hours. The reaction mixture is acidified to pH 3 by dropwise addition of 2M aqueous hydrochloric acid, water added to dissolve the precipitate and the reaction mixture is extracted into dichloromethane. The organic extracts are dried over anhydrous magnesium sulphate, filtered and the filtrate concentrated in vacuo. The residue is taken up in isopropanol (50 ml) and a 2M aqueous solution of sodium hydroxide (140 ml) added. The reaction mixture is stirred at room temperature for 20 hours. The reaction mixture is concentrated in vacuo to remove isopropanol, then heated to 70° C. A solution of 2M aqueous hydrochloric acid is added carefully until the reaction mixture reaches pH 2. The reaction mixture is heated for 2½ hours at 75° C., then cooled to room temperature and the product is extracted into ethyl acetate. The organic extracts are combined, dried over anhydrous magnesium sulphate, filtered and the filtrate concentrated in vacuo to give 5-(tetrahydropyran-4-yl)cyclohexane-1,3-dione.

reactant | Diethylmalonate | 58 mmol, 8.86 ml | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | sodium | 64 mmol, 1.48 g | [Na] | Na
reactant | 4-(tetrahydropyran-4-yl)-3-buten-2-one | 49 mmol, 7.50 g | O1CCC(CC1)C=CC(C)=O | C9H14O2
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | ethanol | 45 ml | C(C)O | C2H6O
product | 5-(tetrahydropyran-4-yl)cyclohexane-1,3-dione | O1CCC(CC1)C1CC(CC(C1)=O)=O | C11H16O3
